*RPLY_BIAS_SKY130A/RPLYBS_OTA
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/RPLYBS_OTA_lpe.spi
#else
.include ../../../work/xsch/RPLYBS_OTA.spice
#endif

.include ../balun.spi

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
#ifdef Debug
.option reltol=1e-3 srcsteps=1 ramptime=10n noopiter keepopinfo gmin=1e-12
#else
.option reltol=1e-5 srcsteps=1 ramptime=10n noopiter keepopinfo gmin=1e-15
#endif

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  dc {vdda}
VPWR PWRUP_1V8 0 dc {vdda}

VI VIP 0 dc {vcm} ac 1

* AC feedback
L1 VO VIN 1G
C1 VIN 0 1G

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
IB 0 IBP_2U dc 2u
XDUT VDD_1V8 VO VSS PWRUP_1V8 VIN VIP IBP_2U RPLYBS_OTA

*----------------------------------------------------------------
* MEASURES
*----------------------------------------------------------------


*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

#ifdef Debug
.save all
#else
.save op v(vip) v(xdut.vs)
.probe v(VDD_1V8) v(VO) v(VSS) v(PWRUP_1V8) v(VIN) v(VIP)
#endif

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
set appendwrite
unset askquit

op
write {cicname}_op.raw

ac dec 50 1k 1G
write

quit

.endc

.end
